US03969354
Hexahydro-2-(nitromethylene)-1-(2-propenyl)-1H-1,3-diazepine (22)
Method B, reacting hexahydro-2-(nitromethylene)-1H-1,3-diazepine with allyl bromide. Melting point: 82° - 83°.

reactant | hexahydro-2-(nitromethylene)-1H-1,3-diazepine | [N+](=O)([O-])C=C1NCCCCN1 | C6H11N3O2
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | Hexahydro-2-(nitromethylene)-1-(2-propenyl)-1H-1,3-diazepine | [N+](=O)([O-])C=C1N(CCCCN1)CC=C | C9H15N3O2
